US07354932B2
To a solution of [4-(3,4-Dihydro-2H-pyrano[3,2-b]pyridin-4-ylamino)-butyl]-carbamic acid tert-butyl ester (329 mg, 1.02 mmol) in CH3CN (5 mL) was added N,N-diisopropylethylamine (0.28 mL, 1.63 mmol) followed by 2-chloromethyl-benzimidazole-1-carboxylic acid tert-butyl ester (328 mg, 1.23 mmol) and potassium iodide (20 mg, 0.1 mmol). The resultant mixture was heated to 60° C. for 16 hours then cooled to room temperature. The mixture was concentrated and the residue was partitioned between CH2Cl2 (25 mL) and saturated aqueous NaHCO3 (20 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (2×15 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated. Purification of the crude material by flash column chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 95:4:1) provided 2-{[(4-tert-Butoxycarbonylamino-butyl)-(3,4-dihydro-2H-pyrano[3,2-b]pyridin-4-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester (380 mg, 67%) as a white foam.

reactant | [4-(3,4-Dihydro-2H-pyrano[3,2-b]pyridin-4-ylamino)-butyl]-carbamic acid tert-butyl ester | 1.02 mmol, 329 mg | C(C)(C)(C)OC(NCCCCNC1CCOC=2C1=NC=CC2)=O | C17H27N3O3
reactant | N,N-diisopropylethylamine | 1.63 mmol, 0.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloromethyl-benzimidazole-1-carboxylic acid tert-butyl ester | 1.23 mmol, 328 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | potassium iodide | 0.1 mmol, 20 mg | [I-].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 2-{[(4-tert-Butoxycarbonylamino-butyl)-(3,4-dihydro-2H-pyrano[3,2-b]pyridin-4-yl)-amino]-methyl}-benzimidazole-1-carboxylic acid tert-butyl ester | 380 mg, 67% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCOC=1C2=NC=CC1)CCCCNC(=O)OC(C)(C)C | C30H41N5O5
